US05624935
2-Methylamino-3-nitropyridine
A procedure similar to that described in Preparation 66 was repeated, except that 24.9 g of 2-chloro-3-nitropyridine, 41.7 g of sodium carbonate, 22.7 ml of a 30 % ethanolic solution of methylamine were reacted in 250 ml of toluene. After working up the product as described in Preparation 66, the resulting crude product was crystallized by trituration with isopropanol, to give 24.0 g of the title compound, melting at 52°-53° C.

reactant | 2-chloro-3-nitropyridine | 24.9 g | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
reactant | sodium carbonate | 41.7 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | methylamine | CN | CH5N
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | 2-Methylamino-3-nitropyridine | 24.0 g | CNC1=NC=CC=C1[N+](=O)[O-] | C6H7N3O2
